US07074800B1
Triethylamine (33 mg, 0.33 mmol) and tert-butyl acrylate (77 mg, 0.6 mmol) followed by diphenylpropylphosphine (3.4 mg, 0.008 mmol) and palladium(II) acetate (1.7 mg, 0.0075 mmol) were added to a solution of 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(trifluoromethylsulphonyloxy)quinazoline (136 mg, 0.3 mmol) in DMF (1.5 ml) under argon. When the addition was complete the reaction flask was purged with argon. The mixture was stirred at 80–85° C. for 6 hours. After cooling, the mixture was partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH6 with 2M hydrochloric acid. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography eluting with methylene chloride followed by methylene chloride/ether (95/5). After removal of the solvent under vacuum, the solid was triturated with pentane/ether, collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-(tert-butoxycarbonyl)vinyl)quinazoline (63 mg, 49%).

reactant | Triethylamine | 0.33 mmol, 33 mg | C(C)N(CC)CC | C6H15N
reactant | tert-butyl acrylate | 0.6 mmol, 77 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | diphenylpropylphosphine | 0.008 mmol, 3.4 mg | C1(=CC=CC=C1)C(CCP)C1=CC=CC=C1 | C15H17P
reactant | 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(trifluoromethylsulphonyloxy)quinazoline | 0.3 mmol, 136 mg | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1)F | C16H9ClF4N2O5S
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.0075 mmol, 1.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-(tert-butoxycarbonyl)vinyl)quinazoline | 63 mg, 49% | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)C=CC(=O)OC(C)(C)C)C=C1)F | C22H20ClFN2O4
